US09212190B2
To a solution of 1,4-dioxaspiro[4.5]decan-8-ol (379 mg, 2.40 mmol, 1.20 equiv) in freshly distilled THF (10 mL) was added sodium hydride (60% dispersion in mineral oil, 320 mg, 8.00 mmol, 4.00 equiv) in ice/water bath and stirred for 30 min under nitrogen. A solution of (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene (710 mg, 2.00 mmol, 1.00 equiv) in 10 mL of anhydrous THF was added dropwise and the resulting solution was stirred for 3 h at 60° C. After cooling, the mixture was then quenched with water, extracted with EtOAc (100 mL), dried over anhydrous sodium sulfate. The solvents were evaporated under reduced pressure to obtain (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-[1,4-dioxaspiro[4.5]decan-8-yloxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene (840 mg, 88%) as a yellow oil.

reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 2.40 mmol, 379 mg, 1.20 equiv | O1CCOC12CCC(CC2)O | C8H14O3
reactant | sodium hydride | 8.00 mmol, 320 mg, 4.00 equiv | [H-].[Na+]
reactant | (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene | 2.00 mmol, 710 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)Cl | C16H23ClN2OSSi
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3S)-3-[[(tert-butyldimethylsilyl)oxy]methyl]-12-[1,4-dioxaspiro[4.5]decan-8-yloxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene | 840 mg, 88% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC2(OCCO2)CC1 | C24H36N2O4SSi
